US04536346
2-[3,3-Bis(p-chlorophenyl)acrylamido]benzoic acid, methyl ester
A solution of 20.0 g. of bis(4-chlorophenyl)acryloyl chloride in 150 m. of dichloromethane is added to a stirred solution of 10.3 g. of methyl 2-aminobenzoate and 12.2 ml. of triethylamine in 150 ml. of dichloromethane. This solution is stirred under reflux for 3 hours, then overnight at room temperature, and evaporated. The residue is stirred with 300 ml. of boiliing acetone, filtered white hot, and chilled. The resulting solid is collected and dried in vacuo, giving 15.6 g. of the desired product as a white solid, m.p. 141°-143° C.

reactant | bis(4-chlorophenyl)acryloyl chloride | ClC1=CC=C(C=C1)C(=CC(=O)Cl)C1=CC=C(C=C1)Cl | C15H9Cl3O
reactant | methyl 2-aminobenzoate | NC1=C(C(=O)OC)C=CC=C1 | C8H9NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[3,3-Bis(p-chlorophenyl)acrylamido]benzoic acid, methyl ester | ClC1=CC=C(C=C1)C(=CC(=O)NC1=C(C(=O)OC)C=CC=C1)C1=CC=C(C=C1)Cl | C23H17Cl2NO3
